US09284333B2
To a solution of 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide (Comp. No. 16e) (200 mg, 0.43 mmol) in chloroform (5 ml) was added N-bromo-succinimide (76 mg, 0.43 mmol) and the mixture was stirred for 18 h at 25° C. Then excess dichloromethane was added and the mixture was washed consecutively with water, aqueous sodium hydrogencarbonate and brine. The organic layer was evaporated to dryness. The crude product was purified by reverse phase HPLC to give 200 mg (86%) of 7-bromo-6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide. LC/MS (method 3): Rt=1.81 min; m/z=543.1 (M+H+).

reactant | 6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide | FC(C1=CC=C(C=N1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C)(F)F | C23H27F3N4O3
reactant | N-bromo-succinimide | 0.43 mmol, 76 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-6-((S)-2-methyl-pyrrolidine-1-carbonyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid [(R)-1-(6-trifluoromethyl-pyridin-3-yl)-propyl]-amide | 200 mg, 86% | FC(C1=CC=C(C=N1)[C@@H](CC)NC(=O)C=1C(=C(N2C1COCC2)C(=O)N2[C@H](CCC2)C)Br)(F)F | C23H26BrF3N4O3
